US07728025B2
(Step 2) Production of 1-(2-(6-(3,4-diamino-phenoxy)-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
0.030 ml of hydrazine monohydrate and 20 mg of developed Raney nickel catalyst were added to an ethanol (1 ml) solution of 72 mg of 1-(2-(6-(3,4-dinitro-phenoxy)-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone, and the reaction liquid was stirred at room temperature for 2 hours. The catalyst was removed through filtration through Celite, and the solvent was evaporated away under reduced pressure. The resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=9/1) to obtain the entitled compound as a brown oily substance.

reactant | hydrazine monohydrate | 0.030 ml | O.NN
reactant | 1-(2-(6-(3,4-dinitro-phenoxy)-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | 72 mg | [N+](=O)([O-])C=1C=C(OC=2C(=CC3=C(N=C(N3COCC[Si](C)(C)C)C3=NC=CC=C3)C2)C2N(CCC2)C(C)=O)C=CC1[N+](=O)[O-] | C30H34N6O7Si
catalyst | Raney nickel | 20 mg | [Ni] | Ni
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-(2-(6-(3,4-diamino-phenoxy)-2-pyridin-2-yl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | NC=1C=C(OC=2C(=CC3=C(N=C(N3COCC[Si](C)(C)C)C3=NC=CC=C3)C2)C2N(CCC2)C(C)=O)C=CC1N | C30H38N6O3Si
